US09376452B2
2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid (SID 99381129, CID46916266)
To a solution of tert-Butyl 2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (0.104 g, 0.25 mmol, 1 equiv.) in DCM (10 mL) was added TFA (2 mL, 26 mmol, 100 equiv.), and the reaction was stirred at rt for 16 h. The solvent was removed and the product was triturated with 1:1 Et2O/hexanes (25 mL) and filtered. The product was purified by mass-directed reverse-phase chromatography and isolated as a white solid (3 mg, 3% yield). 1H NMR (400 MHz, CDCl3) δ 14.92 (br s, 1H), 9.02-9.09 (m, 1H), 7.83-7.91 (m, 1H), 7.55-7.66 (m, 2H), 7.41-7.50 (m, 2H), 7.19-7.23 (m, 1H), 4.69-4.76 (m, 2H), 3.92-3.98 (m, 2H), 2.88-3.03 (m, 2H). LCMS retention time: 2.955 min; LCMS purity at 215 nm=100%. HRMS m/z calculated for C16H15N2O4S2 [M++1]: 363.0468. found 363.0464.

reactant | tert-Butyl 2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.25 mmol, 0.104 g, 1 equiv. | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COCC2)S1)C(=O)OC(C)(C)C)=S | C20H22N2O4S2
reactant | TFA | 26 mmol, 2 mL, 100 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-benzoylthioureido)-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylic acid | 3 mg, 3% yield | C(C1=CC=CC=C1)(=O)NC(NC1=C(C2=C(COCC2)S1)C(=O)O)=S | C16H14N2O4S2
